US09079880B2
Split a solution of trans-3-(3-bromo-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.53 g, 1.13 mmol) in a 1:1 mixture of MeOH/THF (10 mL) into three microwave pressure tubes. Add to each tube molybedinum hexacarbonyl (0.06 g, 0.23 mmol) followed by N,N-diisoproylethyl amine (0.15 mL, 0.80 mmol) and Herrmann's palladacycle (0.16 g, 0.17 mmol). Heat each mixture in a microwave reactor at 150° C. for 15 minutes then cool to room temperature. Combine the mixtures, dilute with EtOAc and load onto silica gel. Purify the residue by flash silica gel chromatography to provide 0.20 g of trans-3-(3-cyano-phenylcarbamoyl)-4-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a foam.

reactant | trans-3-(3-bromo-phenyl)-4-(3-cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.13 mmol, 0.53 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C(NC1=CC(=CC=C1)C#N)=O)C1=CC(=CC=C1)Br | C23H24BrN3O3
reactant | MeOH THF | 10 mL | CO.C1CCOC1
reactant | N,N-diisoproylethyl amine | 0.80 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Herrmann's palladacycle | 0.17 mmol, 0.16 g | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
product | trans-3-(3-cyano-phenylcarbamoyl)-4-(3-methoxycarbonyl-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC(=CC=C1)C(=O)OC)C(NC1=CC(=CC=C1)C#N)=O | C25H27N3O5
